US07834051B2
Benzyl(2S,3S)-3-hydroxy-2-methylpyrrolidine-1-carboxylate
To a suspension of (4S,5S)-4-hydroxy-5-methylpyrrolidin-2-one (10.45 g) in dry THF (418 mL) was added dropwise Red-Al (104.9 g: 363 mmol: 70% toluene solution) under ice-cooling and a nitrogen stream. The mixture was stirred at room temperature for 20 min, and further refluxed for 3 hr. The reaction mixture was ice-cooled again, and sodium carbonate decahydrate (41.6 g) was added under a nitrogen stream. The mixture was stirred at room temperature overnight, insoluble materials were filtered through celite and washed with THF. The filtrate and washing were combined and concentrated under reduced pressure to give (2S,3S)-3-hydroxy-2-methylpyrrolidine. Without further purification, this compound was diluted with DMSO to give 0.9 mol/L-DMSO solution. A solution (170 mL) of (2S,3S)-3-hydroxy-2-methylpyrrolidine in 0.9 mol/L-DMSO was diluted with water (200 mL), sodium hydrogen carbonate (24.6 g) and benzyl chloroformate (15 mL) were added, and the mixture was stirred at room temperature for 18 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give the title compound as a pale-yellow oil (yield: 20.64 g, 84%).

reactant | (2S,3S)-3-hydroxy-2-methylpyrrolidine | 170 mL | O[C@@H]1[C@@H](NCC1)C | C5H11NO
reactant | DMSO | CS(=O)C | C2H6OS
reactant | sodium hydrogen carbonate | 24.6 g | C(O)([O-])=O.[Na+]
reactant | benzyl chloroformate | 15 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | 200 mL | O | H2O
product | Benzyl(2S,3S)-3-hydroxy-2-methylpyrrolidine-1-carboxylate | yield: 20.64 g, 84% | O[C@@H]1[C@@H](N(CC1)C(=O)OCC1=CC=CC=C1)C | C13H17NO3
